US04643990
Starting from N-(3-hexadecanoyloxyoctadecanoyl)-5-aminopentanoic acid (1.27 g) prepared by the method of Preparation B-6 and dibenzyl L-glutamate (0.65 g), dibenzyl N-[N-(3-hexadecanoyloxyoctadecanoyl)-5-aminopentanoyl]-L-glutamate (1.5 g) was obtained as crystal according to a similar manner to that of Example 2.

reactant | N-(3-hexadecanoyloxyoctadecanoyl)-5-aminopentanoic acid | 1.27 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)NCCCCC(=O)O)CCCCCCCCCCCCCCC | C39H75NO5
reactant | dibenzyl L-glutamate | 0.65 g | N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C19H21NO4
product | dibenzyl N-[N-(3-hexadecanoyloxyoctadecanoyl)-5-aminopentanoyl]-L-glutamate | 1.5 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)NCCCCC(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)CCCCCCCCCCCCCCC | C58H94N2O8
